US08871738B2
A 3-neck 5 L RBF equipped with mechanical stirrer, thermometer, and a nitrogen bubbler, was charged with 3-(4-methoxyphenyl)propionic acid methyl ester (100 g, 515 mmol), silver sulfate (161 g, 515 mmol) and iodine (131 g, 515 mmol) in methanol (2 L). The reaction mixture was stirred vigorously at room temperature for 1 hour. The reaction was filtered through Solka-Floc® (ethyl acetate wash). The filtrate was concentrated and the residue was taken up in ethyl acetate (4 L). The organic was washed with water, saturated aq. NaHSO3 (50 mL), and brine (50 mL) before drying over Na2SO4, filtering, and concentrating to dryness. The crude reaction was purified by column chromatography to yield methyl 3-(3-iodo-4-methoxyphenyl)propanoate (155 g, 484 mmol) as a clear oil. MS ESI calc'd. for C11H14IO3 [M+H]+ 321.0. found 321.0.

reactant | 3-(4-methoxyphenyl)propionic acid methyl ester | 515 mmol, 100 g | COC(CCC1=CC=C(C=C1)OC)=O | C11H14O3
reactant | iodine | 515 mmol, 131 g | II | I2
solvent | methanol | 2 L | CO | CH4O
catalyst | silver sulfate | 515 mmol, 161 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | methyl 3-(3-iodo-4-methoxyphenyl)propanoate | 484 mmol, 155 g | IC=1C=C(C=CC1OC)CCC(=O)OC | C11H13IO3
